US04595535
To a solution of 5 g of 2-methyl-5-(4-methyl-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine in 50 ml of methylene chloride is added in portions 3.75 g of m-chloroperbenzoic acid with stirring at 0°. The mixture is then stirred at room temperature overnight and evaporated to dryness. The foamy residue is passed through 100 g of Amberlite IRA-400 ion exchange resin using water as eluent. Evaporation of the eluent gives 2-methyl-5-(4-methyl-4-oxido-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine.

reactant | 2-methyl-5-(4-methyl-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine | 5 g | CC=1N=C2N(C(=NC3=C(C2)C=CC=C3)N3CCN(CC3)C)N1 | C16H20N6
reactant | m-chloroperbenzoic acid | 3.75 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-5-(4-methyl-4-oxido-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine | CC=1N=C2N(C(=NC3=C(C2)C=CC=C3)N3CC[N+](CC3)([O-])C)N1 | C16H20N6O
